US04732902
To a solution of 4-hydroxy-2,2-dimethylbutanoic acid phenylmethyl ester (1.11 g), in dichloromethane in an ice bath, was added dimethylaminopyridine (0.72 g) followed by a solution of decanoyl chloride (0.95 g) in dichloromethane (5 mL). The mixture was stirred at room temperature for 2 hours and was filtered. The filtrate was evaporated and the residue was chromatographed on silica gel eluting with dichloromethane to afford 1.4 g (74.5%) of 2,2-dimethyl-4-[(1-oxodecyl)oxy]butanoic acid phenylmethyl ester. A portion was evaporatively distilled to give an analytical sample as a colorless oil: bp 190° C./0.15 mm; IR (CHCl3) 1720 (C=O) and 697 cm-1 (Ph); NMR (CDCl3) δ 0.87 (t, 3, CH3), 1.25-1.60 (m, 20, CH2 and CH3), 1.93 (t, 2, CH2), 2.23 (t, 2, CH2), 4.11 (t, 2, CH 2), 5.11 (s, 2, CH2) and 7.33 (s, 5, Ph); MS m/e 376 and 91.

reactant | 4-hydroxy-2,2-dimethylbutanoic acid phenylmethyl ester | 1.11 g | C1(=CC=CC=C1)COC(C(CCO)(C)C)=O | C13H18O3
reactant | dimethylaminopyridine | 0.72 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | decanoyl chloride | 0.95 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,2-dimethyl-4-[(1-oxodecyl)oxy]butanoic acid phenylmethyl ester | 1.4 g, 74.5% | C1(=CC=CC=C1)COC(C(CCOC(CCCCCCCCC)=O)(C)C)=O | C23H36O4
